.SUBCKT LM10C      3 2 7 4 6 1 8
RC1 4 80 5.305E+04
RC2 4 90 5.305E+04
Q1 80 102 10 QM1 
Q2 90 103 11 QM2 
RB1 2 102 4.000E+03
RB2 3 103 4.000E+03
DCM1 105 102 DM2 
DCM2 105 103 DM2 
VCMC 105 4 4.000E-01
C1 80 90 2.598E-11
RE1 10 12 4.134E+04
RE2 11 12 4.134E+04
IEE 7 12 4.524E-06
RE 12 0 4.421E+07
CE 12 0 1.579E-12
* INTERMEDIATE 
GCM 0 85 12 0 1.497E-10
GA 85 0 80 90 1.885E-05
R2 85 0 1.000E+05
C2 15 85 3.000E-11
GB 15 0 85 0 2.455E+02
* OUTPUT 
RO1 15 110 1.000E+02
RO2A 15 0 1.083E+03
RO2B 6 110 8.170E+02
EC 17 0 110 0 1
D1 15 17 DM1
D2 17 15 DM1
D3 110 13 DM2 
D4 14 110 DM2 
D5 6 110 DM2 
D6 110 6 DM2 
VC 7 13 8.075E-01
VE 14 4 8.075E-01
IP 7 4 2.955E-04
DSUB 4 7 DM2 
* REFERENCE
ER 1 4 8 200 70E3
VR 200 4 0.200
RRIN 200 4 1E9
IBR 8 4 22E-9
* MODELS 
.MODEL QM1 PNP (IS=8.000E-16 BF=1.844E+02)
.MODEL QM2 PNP (IS=8.156E-16 BF=1.907E+02)
.MODEL DM1 D (IS=2.784E-32)
.MODEL DM2 D (IS=8.000E-16 BV=4.9500E+01)
*
.ENDS LM10C
